US06825200B1
(±)-tert-Butyl 3-methyl-4-(4-nitrophenyl)piperazine-1-carboxylate
A mixture of (±)-tert-butyl 3-methylpiperazine-1-carboxylate (1.5 g), 1-fluoro-4-nitrobenzene (1.06 g) and potassium carbonate (2.07 g) in dimethyl sulfoxide (15 ml) was stirred at 120° C. for 15 hours. The reaction mixture was cooled to room temperature and poured into water (30 ml). The mixture was extracted with ethyl acetate three times. The combined organic layers were washed successively with water (twice) and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate 2:1) to give the title compound as a white solid.

reactant | (±)-tert-butyl 3-methylpiperazine-1-carboxylate | 1.5 g | CC1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 1-fluoro-4-nitrobenzene | 1.06 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 30 ml | O | H2O
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | (±)-tert-Butyl 3-methyl-4-(4-nitrophenyl)piperazine-1-carboxylate | CC1CN(CCN1C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C16H23N3O4
